### PR TITLE
[Merged by Bors] - feat: add `equivMap[OfInjective]` for subalgebra and intermediate field

### PR DESCRIPTION
**Pull request by acmepjz**
... parallel to `Subring.equivMapOfInjective`, `Subsemiring.equivMapOfInjective`, etc. etc.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 1]
```diff
@@ -1099,6 +1099,25 @@ theorem equivOfEq_trans (S T U : Subalgebra R A) (hST : S = T) (hTU : T = U) :
...
+section equivMapOfInjective
+
+variable (f : A →ₐ[R] B)
+
+theorem map_eq : S.map f = (f.comp S.val).range := by
+  rw [AlgHom.range_comp, range_val]
+
+variable (hf : Function.Injective f)
+
+/-- A subalgebra is isomorphic to its image under an injective function -/
```
Comment (alreadydone) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1111]:
```suggestion
/-- A subalgebra is isomorphic to its image under an injective `AlgHom` -/
```
or more verbosely, "homomorphism of algebras"

File: Mathlib/FieldTheory/Adjoin.lean [hunk 2]
```diff
@@ -315,6 +315,24 @@ theorem _root_.AlgEquiv.fieldRange_eq_top (f : E ≃ₐ[F] K) :
...
+section equivMap
+
+variable {F : Type*} [Field F] {E : Type*} [Field E] [Algebra F E]
+  {K : Type*} [Field K] [Algebra F K] (L : IntermediateField F E) (f : E →ₐ[F] K)
+
+theorem map_eq : L.map f = (f.comp L.val).fieldRange := toSubalgebra_injective <| by
+  rw [toSubalgebra_map, AlgHom.fieldRange_toSubalgebra, AlgHom.range_comp, range_val]
+
+/-- An intermediate field is isomorphic to its image under an algebra map
+(which is automatically injective) -/
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Adjoin.lean:327]:
```suggestion
/-- An intermediate field is isomorphic to its image under an `AlgHom`
(which is automatically injective) -/
```
to avoid confusion with `algebraMap`

**Review by alreadydone — APPROVED** [review]

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+
